US04072688
Preparation of 2-phenyl-3-chloroacetyl-4,4-dimethyl oxazolidine.
Twenty-one and three tenths ml. of a benzene solution containing 5.3 g. of 2-phenyl-4,4-dimethyl oxazolidine was mixed with 50 ml. of benzene and 3.4 g. of chloroacetyl chloride. To this solution was added 3.1 g. of triethylamine, dropwise with stirring in an ice bath. The mixture was stirred for about 30 minutes after addition was complete and then washed with water, separated and dried over magnesium sulfate and the solvent stripped. There was obtained a yield of 6.5 g. of an oil, the title compound, ND30 = 1.5364.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2-phenyl-4,4-dimethyl oxazolidine | C1(=CC=CC=C1)C1OCC(N1)(C)C | C11H15NO
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-phenyl-3-chloroacetyl-4,4-dimethyl oxazolidine | C1(=CC=CC=C1)C1OCC(N1C(CCl)=O)(C)C | C13H16ClNO2
